US07476521B2
In a dry flask on ice, 3 ml of dehydrated dichloromethane was stirred and 1 ml of 2M trimethyl aluminum was slowly added thereto under a nitrogen stream. After that, 1 mmol of thiophenol was slowly added thereto. The mixture was stirred at room temperature for 30 minutes and then 3-hydroxyvalerate dissolved in 3 ml of dehydrated dichloromethane was added thereto. The reaction was monitored by a TLC. To this mixed solution was added 10 ml of dichloromethane and, until generation of bubbles stopped, 10 ml of 3% hydrochloric acid solution was added. The mixed solution was transferred to a separating funnel, washed with 3% hydrochloric acid solution for two times and with saturated saline for two times, dried over magnesium sulfate and evaporated in vacuo to give 258 mg of crude oily 3-hydroxyvalerate thiophenyl ester in dark yellow color. This was purified by a column chromatography (20 cm×1 cm diameter; eluent was hexane:ethyl acetate=2:1) using silica gel 60 to give 44 mg of pure 3-hydroxyvalerate thiophenyl ester as a transparent oil. The yield to the unpurified substance was 17%. Result of NMR analysis of this compound is as follows.

reactant | trimethyl aluminum | 2M, 1 ml | C[Al](C)C
reactant | thiophenol | 1 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | 3-hydroxyvalerate | OC(CC(=O)[O-])CC
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-hydroxyvalerate thiophenyl ester | 258 mg | S1C(=CC=C1)OC(CC(CC)O)=O | C9H12O3S
